US04588729
Preparation of 3-methyl-1-(4-trifluoromethylphenyl)dihydrouracil (Compound No. 33):
At first, 4 g (0.014 moles) of N-(methylcarbamoyl)-N-(4-trifluoromethylphenyl)-β-alanine was added to a solution consisting of 45 ml of 6N-hydrochloric acid and 15 ml of acetic acid, and the mixture was refluxed with heating for 2 hours. After completion of the reaction, 50 ml of water was added thereto. The deposited crystals were recovered by filtration with suction and recrystallized from ethyl acetate-n-hexane, 3.38 g of the desired compound was obtained as colorless needle crystals having a melting point of 115°-117° C. (yield: 90.1%).

reactant | N-(methylcarbamoyl)-N-(4-trifluoromethylphenyl)-β-alanine | 0.014 moles, 4 g | CNC(=O)N(CCC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C12H13F3N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 3-methyl-1-(4-trifluoromethylphenyl)dihydrouracil | 3.38 g, yield: 90.1% | CN1C(N(CCC1=O)C1=CC=C(C=C1)C(F)(F)F)=O | C12H11F3N2O2
